US07737166B2
Ethyl (1-{4-cyano-7-[(3S)-3-(dimethylamino)pyrrolidin-1-yl]-5-methyl-6-phenyl-1,3-benzoxazol-2-yl}azetidin-3-yl)acetate (I-191)
Ethyl [1-(4-cyano-7-fluoro-5-methyl-6-phenyl-1,3-benzoxazol-2-yl)azetidin-3-yl]acetate (I-190) (428 mg, 1.09 mmol) was dissolved in dimethyl sulfoxide (10 ml), then triethylamine (312 μl, 2.18 mmol) and (3S)-3-(dimethylamino)pyrrolidine (290 μl, 2.29 mmol) were added, followed by stirring in a sealed tube at 150° C. for 6 hours. After cooling, concentration under reduced pressure, dilution with chloroform, and washing with water, the organic layer was dried over anhydrous magnesium sulfate, then the solvent was evaporated away under reduced pressure. The resulting residue was subjected to silica gel column chromatography, and the eluate with chloroform/methanol (10:1, v/v) gave the entitled compound (220 mg, 41.4%) as a white solid.

reactant | Ethyl [1-(4-cyano-7-fluoro-5-methyl-6-phenyl-1,3-benzoxazol-2-yl)azetidin-3-yl]acetate | 1.09 mmol, 428 mg | C(#N)C1=C(C(=C(C2=C1N=C(O2)N2CC(C2)CC(=O)OCC)F)C2=CC=CC=C2)C | C22H20FN3O3
reactant | triethylamine | 2.18 mmol, 312 μl | C(C)N(CC)CC | C6H15N
reactant | (3S)-3-(dimethylamino)pyrrolidine | 2.29 mmol, 290 μl | CN([C@@H]1CNCC1)C | C6H14N2
solvent | dimethyl sulfoxide | 10 ml | CS(=O)C | C2H6OS
product | Ethyl (1-{4-cyano-7-[(3S)-3-(dimethylamino)pyrrolidin-1-yl]-5-methyl-6-phenyl-1,3-benzoxazol-2-yl}azetidin-3-yl)acetate | 220 mg, 41.4% | C(#N)C1=C(C(=C(C2=C1N=C(O2)N2CC(C2)CC(=O)OCC)N2C[C@H](CC2)N(C)C)C2=CC=CC=C2)C | C28H33N5O3
